US07728147B2
Preparation of 4-[(2,3-dimethylbenzyl)]imidazole hydrochloride (detomidine HCl)
1-Benzyl-5-(2,3-dimethylphenylhydroxymethyl)imidazole (20 kg), water (225 l), 30% HCl (20 l), ethanol (5 l) and palladium on charcoal 10% (4.4 kg) are charged. The mixture is stirred under 2.2 bar overpressure of hydrogen at 75±5° C. for 24 hours. The reaction mixture is filtered at 45±3° C. and the filter cake is washed with water (30 l). 170 l of water is distilled off under reduced pressure and 30% HCl (8 l) is added. The solution is cooled to 3±3° C. during 2 h. The solution is seeded with crystals of detomidine HCl at 40±5° C., 30±5° C., 20±5° C. and at 10±5° C., until the crystallization starts. The mixture is agitated for two hours. The crystalline compound is collected by centrifugation and washed with toluene. The crude product and water (250 l) are charged. The solution is heated to about 50° C. and stirred for 1 hour. The solution is cooled to 10° C. during 1.5 hour. The solution is filtered and 180 l of water is distilled off under vacuum. 30% HCl (20 l) is added and the solution is warmed to 60° C., and then cooled to 3±3° C. during 2 hours. The solution is seeded as above until the crystallization starts and agitated for two hours. The crystalline compound is collected by centrifugation and washed with toluene. The product is dried under vacuum at 39±5° C. for 20 hours, at 61±5° C. for 6 hours and at 85±5° C. for 16 hours. The yield is 10.5 kg (78%).

reactant | 1-Benzyl-5-(2,3-dimethylphenylhydroxymethyl)imidazole | 20 kg | C(C1=CC=CC=C1)N1C=NC=C1C(O)C1=C(C(=CC=C1)C)C | C19H20N2O
reactant | water | 225 l | O | H2O
reactant | HCl | 20 l | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 4.4 kg | [Pd] | Pd
solvent | ethanol | 5 l | C(C)O | C2H6O
product | 4-[(2,3-dimethylbenzyl)]imidazole hydrochloride | Cl.CC1=C(CC=2N=CNC2)C=CC=C1C | InChI=1S/C12H14N2.ClH/c1-9-4-3-5-11(10(9)2)6-12-7-13-8-14-12;/h3-5,7-8H,6H2,1-2H3,(H,13,14);1H
